US08106208B2
(b) 3-Bromo-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-5-(trifluoromethyl)benzamide
To a solution of 3-bromo-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5-(trifluoromethyl)benzamide (0.86 g, 1.9 mmol) in acetone (45 mL) were added OsO4 (2.5% in t-butyl alcohol, 0.49 mL, 0.039 mmol) and 4-methylmorpholine-4-oxide (0.41 g, 3.5 mmol). The solution was stirred under nitrogen at RT overnight and then an aqueous solution of NaHSO3 (39%, 45 mL) was added. The mixture was stirred for 2 h, diluted with water and then extracted twice with methylene chloride. The combined organic solutions were separated by means of a phase separator column and the solvent was removed by evaporation. The residue (1.08 g) was dissolved in THF (18 mL) and water (4.5 mL) and to the resultant solution was added NaIO4 (0.73 g, 3.4 mmol). The mixture was stirred under nitrogen overnight at RT. The mixture was partitioned between methylene chloride and water. The aqueous phase was extracted with methylene chloride and then the combined organic solutions were washed with brine and separated by means of a phase separator column. The solvent was removed by evaporation. There was obtained 0.78 g (90%) of the title compound. 1H NMR (500 MHz, CDCl3): 2.4-4.4 (cm, 8H), 6.2-8.2 (cm, 7H), 9.8 (s, 1H); LCMS: m/z 447 (M+1)+.

reactant | 3-bromo-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5-(trifluoromethyl)benzamide | 1.9 mmol, 0.86 g | BrC=1C=C(C(=O)N(C)C[C@@H](CC=C)C2=CC=C(C=C2)F)C=C(C1)C(F)(F)F | C20H18BrF4NO
reactant | 4-methylmorpholine-4-oxide | 3.5 mmol, 0.41 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NaHSO3 | 45 mL | OS(=O)[O-].[Na+]
solvent | acetone | 45 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
catalyst | OsO4 | 0.039 mmol, 0.49 mL | O=[Os](=O)(=O)=O
solvent | water | 4.5 mL | O | H2O
product | 3-Bromo-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-5-(trifluoromethyl)benzamide | 0.78 g, 90% | BrC=1C=C(C(=O)N(C)C[C@@H](CC=O)C2=CC=C(C=C2)F)C=C(C1)C(F)(F)F | C19H16BrF4NO2
